US07102000B2
To a solution of 3-methoxy-4-methyl-aniline (8.19 g, 59.71 mmol) in dichloromethane (200 mL), was added tetrabutylammonium tribromide (28.79 g, 59.71 mmol) and the reaction mixture was stirred at room temperature for 2.5 hrs. Aqueous NaHCO3 was added and the layers separated. The aqueous layer was further extracted with dichloromethane and the combined organics washed successively with water and brine, dried over MgSO4, filtered and evaporated. The residue was chromatographed on silica gel (20% ethyl acetate in hexane) to give 11.05 g of 2-bromo-5-methoxy-4-methyl-aniline (85% yield). 1H NMR (300 MHz; CDCl3): 2.09 (s, 3 H), 3.75 (s, 3 H), 3.95 (br s, 1 H), 6.27 (s, 1 H), 7.13 (s, 1 H).

reactant | 3-methoxy-4-methyl-aniline | 59.71 mmol, 8.19 g | COC=1C=C(N)C=CC1C | C8H11NO
reactant | tetrabutylammonium tribromide | 59.71 mmol, 28.79 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-bromo-5-methoxy-4-methyl-aniline | 11.05 g, 85% yield | BrC1=C(N)C=C(C(=C1)C)OC | C8H10BrNO
